US06235785B1
B. Preparation of 2-[3-(allyloxy)benzoyl]benzoic acid methyl ester
A solution of 2-[3-(allyloxy)benzoyl]benzoic acid (9.00 g, 31.9 mmol) in methanol (100 mL) was saturated with hydrogen chloride gas. The resulting solution was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo and diluted with diethyl ether. The resulting solution was washed sequentially with a saturated sodium bicarbonate solution, water, and a saturated sodium chloride solution. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting pale yellow oil solidified upon standing to provide 9.45 g (100%) of the desired title product as a white solid: mp 50-52° C.; NMR (CDCl3) 8.05 (d, J=7.8 Hz, 1H), 7.65 (t, J=8 Hz, 1H), 7.56 (t, J=8 Hz, 1H), 7.40 (m, 2H), 7.32 (t, J=8 Hz, 1H), 7.22 (d, J=8 Hz, 1H), 7.14 (d, J=8 Hz, 1H), 6.08 (m, 1H), 5.40 (d, J=16 Hz, 1H), 5.30 (d, J=11 Hz, 1H), 4.78 (d, J=4 Hz, 2H), 3.62 (s, 3H); MS-FD m/e 297 (p+1, 40), 296 (p, 100); IR.

reactant | 2-[3-(allyloxy)benzoyl]benzoic acid | 31.9 mmol, 9.00 g | C(C=C)OC=1C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC1 | C17H14O4
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 100 mL | CO | CH4O
product | 2-[3-(allyloxy)benzoyl]benzoic acid methyl ester | 9.45 g, 100% | COC(C1=C(C=CC=C1)C(C1=CC(=CC=C1)OCC=C)=O)=O | C18H16O4
